US05859257
A solution of deoxybenzoin (407.4 g, 2.076 mol) in 2 L of absolute ethanol and 600 mL of water was treated with hydroxylamine hydrochloride (288 g, 4.15 mol) and sodium acetate trihydrate (564 g, 4.15 mol). The solution was then warmed to reflux for 2 hours. The reaction mixture was then diluted with 1000 mL of 30% aqueous ethanol and allowed to cool to room temperature whereupon crystals of pure oxime formed which were isolated by filtration and air dried to afford 415.4 g, 95%, mp 94°-96° C. of pure deoxybenzoin oxime.

reactant | deoxybenzoin | 2.076 mol, 407.4 g | C1(=CC=CC=C1)C(=O)CC1=CC=CC=C1 | C14H12O
reactant | hydroxylamine hydrochloride | 4.15 mol, 288 g | Cl.NO
reactant | sodium acetate trihydrate | 4.15 mol, 564 g | O.O.O.C(C)(=O)[O-].[Na+]
solvent | ethanol | 2 L | C(C)O | C2H6O
solvent | water | 600 mL | O | H2O
solvent | ethanol | 1000 mL | C(C)O | C2H6O
product | deoxybenzoin oxime | 415.4 g, 95% | C1(=CC=CC=C1)C(CC1=CC=CC=C1)=NO | C14H13NO
